US06833378B2
4-(1-Ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinonitrile
The title compound was prepared by reacting 4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinamide with triphosgen/triethylamine in THF. mp 105-107° C., 1H NMR(CDCl3) d 6.90(s,2H), 6.26(brs,1H), 6.05(s,1H), 4.24(m,1 H), 2.28(s,3H), 2.25(s,3H), 2.17(s,6H), 1.72(m,4H), 0.97(t,6H) ppm.

reactant | 4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinamide | C(C)C(CC)OC1=CC(=NC(=C1C(=O)N)NC1=C(C=C(C=C1C)C)C)C | C21H29N3O2
reactant | triphosgen triethylamine | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl.C(C)N(CC)CC
solvent | THF | C1CCOC1 | C4H8O
product | 4-(1-Ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinonitrile | C(C)C(CC)OC1=CC(=NC(=C1C#N)NC1=C(C=C(C=C1C)C)C)C | C21H27N3O
